US08106190B2
Cyclohexanone and sodium triacetoxyborohydride were added to a 1,2-dichloroethane-acetic acid solution of methyl 2-amino-5-chlorobenzoate, followed by stirring at room temperature. By post-treating the reaction liquid, methyl 5-chloro-2-(cyclohexylamino)benzoate was obtained.

reactant | Cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-amino-5-chlorobenzoate | NC1=C(C(=O)OC)C=C(C=C1)Cl | C8H8ClNO2
solvent | 1,2-dichloroethane acetic acid | ClCCCl.C(C)(=O)O
product | methyl 5-chloro-2-(cyclohexylamino)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)NC1CCCCC1 | C14H18ClNO2
